US07041668B2
To a solution of 4-benzyloxy-benzenesulfonic acid 3,4-diamino-phenyl ester (134 mg) in acetic acid (0.83 ml) and methanol (2.5 ml) at 80° C. was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (89 mg). The reaction mixture was refluxed for 2 hours then allowed to cool to ambient temperature and stirred at this temperature for 14 hours. The resultant precipitate was filtered, washed with diethyl ether and dried under vacuum to afford 4-benzyloxy-benzenesulfonic acid 2-methoxycarbonylamino-1H-benzoimidazol-5-yl ester as a beige solid. Mass spectrum: 454 [M+H]+; retention time=11.46 minutes.

reactant | 4-benzyloxy-benzenesulfonic acid 3,4-diamino-phenyl ester | 134 mg | NC=1C=C(C=CC1N)OS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C19H18N2O4S
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 89 mg | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 0.83 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 2.5 ml | CO | CH4O
product | 4-benzyloxy-benzenesulfonic acid 2-methoxycarbonylamino-1H-benzoimidazol-5-yl ester | COC(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C22H19N3O6S
